US04279918
2-(α-cyano-4-chlorobenzylidene)pyrrolidine
Stir 106 g of 2-methoxypyrroline-1, 243.5 g of 4-chlorobenzylcyanide and 9 ml of triethylamine for 20 hours at 110°. After cooling, add 200 ml of diethyl ether thereto and filter off the formed precipitate (80.9 of the title compound). Distil off the solvent and the 4-chlorobenzylcyanide under a vacuum to obtain a further 42 g of the title compound (m.p. 135° to 137°) for a total yield of 122.9 g (52% of theory).

reactant | 4-chlorobenzylcyanide | 243.5 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-(α-cyano-4-chlorobenzylidene)pyrrolidine | 42 g | C(#N)C(C1=CC=C(C=C1)Cl)=C1NCCC1 | C12H11ClN2
